US05902803
A suspension of 0.5 g of ethyl [4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-8-yl]acetate in 50 ml of 6N hydrochloric acid is heated at reflux for 2 hours. 25 ml of 1,4-dioxane are added to the mixture and reflux is continued for 4 hours. After returning to a temperature in the region of 20° C., the solid formed is filtered, washed with 5 ml of 1,4-dioxane and then dried under reduced pressure (1 mbar) at 60° C. 0.47 g of [4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-8-yl]acetic acid is thus obtained in the form of a hydrochloride monohydrate, the melting point of which is greater than 260° C. (Analysis; % Calculated C: 56.7, H: 3.81, Cl: 11.16, N: 13.23; % Found C: 56.7, H: 3.9, Cl: 10.9, N: 12.9).

reactant | ethyl [4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-8-yl]acetate | 0.5 g | O=C1C=2N(C3=C(N1)C=1C=CC(=CC1C3)CC(=O)OCC)C=CN2 | C17H15N3O3
reactant | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6N, 50 ml | Cl | ClH
product | [4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-8-yl]acetic acid | 0.47 g | O=C1C=2N(C3=C(N1)C=1C=CC(=CC1C3)CC(=O)O)C=CN2 | C15H11N3O3
